US07728009B1
To a solution of 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole (3.80 g, 10 mmol) in anhydrous THF (60 ml) at −78° C. under nitrogen is added a solution of n-BuLi in hexane (1.6 M, 6.88 ml, 11 mmol, 1.1 eq.) dropwise. The resulting mixture is stirred at −78° C. for 1 hr, after which chlorotrimethylsilane (1.188 g, 11 mmol, 1.1 eq.) is added. The resulting solution is stirred at −78° C. After 1 hour, n-BuLi in hexane (1.6 M, 6.88 ml, 11 mmol, 1.1 eq.) is added dropwise. The resulting mixture is stirred at −78° C. for 1 hr, followed by the addition of diethyl carbonate (3.54 g, 30 mol, 3.0 eq.). The resulting solution is stirred at −78° C. for 30 min, waned to rt slowly, and stirred for an additional 30 min at rt. Water (30 ml) is added to quench the reaction, and THF is evaporated under reduced pressure. The residue is extracted with EtOAc (30 ml×2). The combined organic layers are washed with water and brine, dried over sodium sulfate, and concentrated to give the crude product, which is dissolved in THF (30 ml). To this THF solution is added tetrabutylammonium fluoride (1.1 eq.), and the resulting mixture is stirred at it for 2 hr. The solvent is evaporated under reduced pressure, and the residue is diluted with water (30 ml). The mixture is extracted with EtOAc (30 ml×3), washed with water and brine, dried over Na2SO4 and concentrated. Purification through silica gel chromatography (hexanes/EtOAc, from 8:1 to 4:1) affords 1-ethyl-2-naphthalen-1-yl-1H-imidazole-4-carboxylic acid ethyl ester. LCMS 295 (M+1).

reactant | 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole | 10 mmol, 3.80 g | BrC=1N=C(N(C1Br)CC)C1=CC=CC2=CC=CC=C12 | C15H12Br2N2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 11 mmol, 1.6 M, 6.88 ml, 1.1 eq. | CCCCCC | C6H14
reactant | chlorotrimethylsilane | 11 mmol, 1.188 g, 1.1 eq. | Cl[Si](C)(C)C | C3H9ClSi
reactant | hexane | 11 mmol, 1.6 M, 6.88 ml, 1.1 eq. | CCCCCC | C6H14
reactant | diethyl carbonate | 30 mol, 3.54 g, 3.0 eq. | C(OCC)(OCC)=O | C5H10O3
reactant | tetrabutylammonium fluoride | 1.1 eq. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | Water | 30 ml | O | H2O
product | 1-ethyl-2-naphthalen-1-yl-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1)CC)C1=CC=CC2=CC=CC=C12 | C18H18N2O2
